US05045228
In 30 ml of benzene was dissolved 2.3 g of 4-bromomethylbenzoic acid chloride, 1.37 g of n-octyl alcohol and 5 ml of triethylamine were added to the solution, and a reaction was carried out at room temperature with stirring overnight. Then, 30 ml of ethyl acetate and 10 ml of 2N HCl were added to the reaction mixture, and the organic layer was separated, washed with water and dried on magnesium sulfate. The solvent was removed by distillation, and the residue was separated and purified by the silica gel column chromatography to obtain 3.0 g of octyl 4-bromomethylbenzoate.

reactant | 4-bromomethylbenzoic acid chloride | 2.3 g | BrCC1=CC=C(C(=O)Cl)C=C1 | C8H6BrClO
reactant | n-octyl alcohol | 1.37 g | C(CCCCCCC)O | C8H18O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N, 10 ml | Cl | ClH
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | octyl 4-bromomethylbenzoate | 3.0 g | BrCC1=CC=C(C(=O)OCCCCCCCC)C=C1 | C16H23BrO2
